US09193726B2
Reaction of the Grignard reagent prepared from 1-(bromomethyl)-3,5-difluorobenzene with 6-oxabicyclo[3.1.0]hexane gave trans-2-(3,5-difluorobenzyl)cyclopentanol. Conversion to the mesylate, followed by displacement with sodium azide and reduction with triphenylphosphine afforded cis-2-(3,5-difluorobenzyl)cyclopentanamine.

reactant | 1-(bromomethyl)-3,5-difluorobenzene | BrCC1=CC(=CC(=C1)F)F | C7H5BrF2
reactant | 6-oxabicyclo[3.1.0]hexane | C12CCCC2O1 | C5H8O
product | trans-2-(3,5-difluorobenzyl)cyclopentanol | FC=1C=C(C[C@H]2[C@@H](CCC2)O)C=C(C1)F | C12H14F2O
